US07135472B2
(S)-3-(2-Fluoro-phenyl)-N-[1-(3-thiazol-2-yl-phenyl)-ethyl]-acrylamide
The title compound was prepared from 2-fluorocinnamic acid and (S)-1-(3-thiazol-2-yl-phenyl)-ethylamine following the general procedures as described for Example 1.

reactant | 2-fluorocinnamic acid | FC1=C(C=CC(=O)O)C=CC=C1 | C9H7FO2
reactant | (S)-1-(3-thiazol-2-yl-phenyl)-ethylamine | S1C(=NC=C1)C=1C=C(C=CC1)[C@H](C)N | C11H12N2S
product | (S)-3-(2-Fluoro-phenyl)-N-[1-(3-thiazol-2-yl-phenyl)-ethyl]-acrylamide | FC1=C(C=CC=C1)C=CC(=O)N[C@@H](C)C1=CC(=CC=C1)C=1SC=CN1 | C20H17FN2OS
